US08703969B2
Bis(triphenylphosphine)palladium(II) dichloride ([(C6H5)3P]2PdCl2, 0.0518 g, 5 mol %), copper(I) iodide (0.0086 g, 3 mol %), and triethylamine (3 ml) were charged into a 25-ml round-bottomed flask equipped with a stirrer, and were suspended by stirring at room temperature. To the suspension, a solution obtained by dissolving 2-trifluoromethylsulfanyliodobenzene (1.08 g, 3.6 mmol) prepared in Reference Example 1 and cyclopropylacetylene (0.35 g, 5.3 mmol) in triethylamine (2 ml) was added dropwise, and the solution was stirred at room temperature overnight. After completion of the reaction, a solvent was removed under reduced pressure, and water was added to the obtained residue. The solution was extracted with ether, and the organic layers were combined together, washed with water, dried over magnesium sulfate, filtered, and concentrated to obtain a crude product. The obtained crude product was purified by silica gel column chromatography (hexane) to give target 1-cyclopropylethynyl-2-trifluoromethylsulfanylbenzene (0.67 g, yield: 78%) as an oil.

reactant | 2-trifluoromethylsulfanyliodobenzene | 3.6 mmol, 1.08 g | FC(F)(F)SC1=C(C=CC=C1)I | C7H4F3IS
reactant | cyclopropylacetylene | 5.3 mmol, 0.35 g | C1(CC1)C#C | C5H6
solvent | triethylamine | 2 ml | C(C)N(CC)CC | C6H15N
catalyst | Bis(triphenylphosphine)palladium(II) dichloride | 0.0518 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
catalyst | copper(I) iodide | 0.0086 g | [Cu]I
solvent | triethylamine | 3 ml | C(C)N(CC)CC | C6H15N
product | 1-cyclopropylethynyl-2-trifluoromethylsulfanylbenzene | 0.67 g, yield: 78% | C1(CC1)C#CC1=C(C=CC=C1)SC(F)(F)F | C12H9F3S
